US04390541
1-Methyl-3-formyl-4(1H)-quinolone
The 1-methyl-3-hydroxymethyl-4(1H)-quinolone from preparation 1 (18.9 g) was dissolved in DMF (300 ml) and activated manganese dioxide (280 g), added. The mixture was stirred at 80° C. for 16 hours, after which t.l.c. showed the reaction to be complete. The reaction mixture was filtered, the filtrates evaporated to dryness, and the solid residue washed with water to give the desired product 1-methyl-3-formyl-4(1H)-quinolone, m.p. 210°-212° C.

reactant | 1-methyl-3-hydroxymethyl-4(1H)-quinolone | CN1C=C(C(C2=CC=CC=C12)=O)CO | C11H11NO2
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
catalyst | manganese dioxide | 280 g | [O-2].[O-2].[Mn+4]
product | 1-methyl-3-formyl-4(1H)-quinolone | CN1C=C(C(C2=CC=CC=C12)=O)C=O | C11H9NO2
